US09403846B2
Step 8: Synthesis of 7a-(2,4-difluorophenyl)-5-[(1R,2R)-2-methylcyclopropyl]hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C86)
To a solution of C85 (2.58 g, 14.2 mmol) in toluene (50 mL) cooled to −78° C. was added boron trifluoride diethyl etherate (4.23 mL, 15.9 mmol) drop-wise. After stirring for 30 minutes at −78° C., 2,4-difluoro-1-iodobenzene (3.90 g, 15.9 mmol) was added, followed by drop-wise addition of n-butyllithium (2.5 M in hexanes, 6.04 mL, 15.1 mmol). The reaction was stirred at −78° C. for 90 minutes at which point saturated aqueous ammonium chloride solution (10 mL) was added. The reaction was allowed to warm to room temperature and then taken up in ethyl acetate. The organic layer was washed with water and with saturated aqueous sodium chloride solution and then concentrated in vacuo. Silica gel chromatography (Gradient: 0% to 25% ethyl acetate in heptane) provided the product as a colorless oil. Yield: 1.25 g, 4.23 mmol, 30%. LCMS m/z 296.2 [M+H+]. 1H NMR (400 MHz, CDCl3): characteristic peaks δ 7.82-7.88 (m, 1H), 6.79-6.84 (m, 1H), 6.68-6.74 (m, 1H), 3.93-3.97 (m, 1H), 3.72-3.76 (m, 1H), 3.63-3.66 (m, 1H), 3.44-3.48 (m, 1H), 2.83-2.98 (m, 1H), 1.83-1.92 (m, 1H), 1.44-1.59 (m, 1H), 0.99-1.01 (m, 1H), 0.72-0.87 (m, 1H).

reactant | boron trifluoride diethyl etherate | 15.9 mmol, 4.23 mL | B(F)(F)F.CCOCC
reactant | 2,4-difluoro-1-iodobenzene | 15.9 mmol, 3.90 g | FC1=C(C=CC(=C1)F)I | C6H3F2I
reactant | n-butyllithium | 15.1 mmol, 2.5 M, 6.04 mL | C(CCC)[Li]
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7a-(2,4-difluorophenyl)-5-[(1R,2R)-2-methylcyclopropyl]hexahydro-1H-pyrano[3,4-c][1,2]oxazole | FC1=C(C=CC(=C1)F)C12NOCC1CC(OC2)[C@H]2[C@@H](C2)C | C16H19F2NO2
